US09359336B2
The mixture of 6-amino-5-bromonicotinonitrile (3.315 g, 15.9 mmol, 1 eq), sodium iodide (4.77 g, 2 eq), copper(I) iodide (303 mg, 0.1 eq), and trans-N,N′-dimethylcyclohexane-1,2-diamine (0.52 mL, 0.2 eq) in anhydrous dioxane (40 mL under nitrogen atmosphere was stirred at 120° C. for 20 hours. The mixture was cooled to room temperature then partitioned between ethyl acetate and aqueous ammonium chloride. The organic layer was isolated, further washed with saturated aqueous sodium bicarbonate, brine, and dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated, and the crude solid residue was subject to a column chromatography started first with EtOAc-Hex (1:5 to 1:1) followed by MeOH—CHCl3 (1:100 to 1:20). Product containing fractions were all collected and concentrated. The solid residue was triturated with EtOAc-Hex (1:4) yielding 3-iodo-5-isocyanopyridin-2-amine as an off-white solid in the amount of 2.75 g upon filtration.

reactant | 6-amino-5-bromonicotinonitrile | 15.9 mmol, 3.315 g, 1 eq | NC1=NC=C(C#N)C=C1Br | C6H4BrN3
reactant | sodium iodide | 4.77 g, 2 eq | [I-].[Na+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.52 mL, 0.2 eq | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 303 mg, 0.1 eq | [Cu]I
product | 3-iodo-5-isocyanopyridin-2-amine | IC=1C(=NC=C(C1)[N+]#[C-])N | C6H4IN3
